US07115645B2
N-Hydroxy-6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanamide
23 mg of N-(phenylmethoxy)-6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanamide was dissolved in 4 ml of ethanol, mixed with 15 mg of palladium on carbon (10%) and stirred under a hydrogen atmosphere for 3 hours. After catalyst was separated out, it was concentrated by evaporation in a vacuum, and the residue was crystallized from diethyl ether.

reactant | N-(phenylmethoxy)-6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanamide | 23 mg | C1(=CC=CC=C1)CONC(CCCCCOC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C32H31N3O3
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 15 mg | [Pd] | Pd
product | N-Hydroxy-6-[(1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanamide | ONC(CCCCCOC=1C=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C25H25N3O3
